US08039469B2
Step 2: Preparation of tert-butyl 4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate
A suspension of tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate (1.0 g, 2.4 mmol), 4-aminophenylboronic acid, pinacol ester (0.69 g, 3.2 mmol), and tetrakis(triphenylphosphine) palladium (0.28 g, 0.24 mmol) in aqueous 2 M sodium carbonate solution (3 mL) and 1:1 ethanol/toluene (12 mL) was irradiated in the microwave at 120° C. for 1 hour. After cooling, the biphasic mixture was extracted thrice with ethyl acetate. The extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness under reduced pressure to give the title compound.

reactant | tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | 2.4 mmol, 1.0 g | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)Cl)N2CCN(CC2)C(=O)OC(C)(C)C | C18H27ClN6O3
reactant | 4-aminophenylboronic acid | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | ethanol toluene | 12 mL | C(C)O.C1(=CC=CC=C1)C
solvent | sodium carbonate | 2 M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium | 0.24 mmol, 0.28 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H33N7O3
